US07626030B2
6-Methoxybenzofuran-3(2H)-one (5.6 g, 34.15 mmol) was dissolved in dichloromethane (100 mL) then cooled to −65 C. N,N-diisopropylethylamine (6.84 mL, 39.27 mmol) was added dropwise via syringe, followed by addition of trifluoromethane sulfonic anhydride (6.88 mL, 40.97 mmol). The mixture was slowly warmed from −65 C to 0 C over 2.5 h. The reaction mixture was diluted with dichloromethane then washed with water and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo. The remaining orange-brown liquid was purified by silica gel chromatography (5% ethyl acetate/hexane) to afford 6-methoxybenzofuran-3-yl trifluoromethane sulfonate as a light orange liquid. MS (ESI, pos. ion) m/z: 296.9 (M+1).

reactant | 6-Methoxybenzofuran-3(2H)-one | 34.15 mmol, 5.6 g | COC1=CC2=C(C(CO2)=O)C=C1 | C9H8O3
reactant | N,N-diisopropylethylamine | 39.27 mmol, 6.84 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethane sulfonic anhydride | 40.97 mmol, 6.88 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-methoxybenzofuran-3-yl trifluoromethane sulfonate | FC(S(=O)(=O)OC1=COC2=C1C=CC(=C2)OC)(F)F | C10H7F3O5S
